US08802850B2
2-((3aR,4S,6R,6aS)-6-(6-Chloro-5-nitro-2-(propylthio)pyrimidin-4-ylamino)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol
A solution of 4,6-dichloro-5-nitro-2-(propylthio)pyrimidine (1.07 g, 3.99 mmol, 1.00 equiv.), and 2-((3aR,4S,6R,6aS)-6-amino-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol (570 mg, 4.41 mmol, 1.20 equiv.) in tetrahydrofuran (20 mL) was stirred at 0-10° C. for about 2 hours and then water (20 mL) was added. Standard extractive workup with ethyl acetate (3×20 mL) afforded the title product as a yellow oil (800 mg; yield=45%). 1H NMR (300 MHz, CDCl3) δ: 8.65 (b, 1H), 4.66-4.76 (m, 2H), 4.56 (m, 1H), 3.99 (d, J=7.5 Hz, 1H), 3.70-3.87 (m, 3H), 3.64-3.67 (m, 1H), 3.07-3.20 (m, 2H), 2.34 (m, 1H), 1.97 (m, 1H), 1.76-1.82 (m, 2H), 1.46 (s, 3H), 1.27 (s, 3H), 1.07 (t, J=7.5 Hz, 3H).

reactant | 4,6-dichloro-5-nitro-2-(propylthio)pyrimidine | 3.99 mmol, 1.07 g, 1.00 equiv. | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)SCCC | C7H7Cl2N3O2S
reactant | 2-((3aR,4S,6R,6aS)-6-amino-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol | 4.41 mmol, 570 mg, 1.20 equiv. | N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)OCCO | C10H19NO4
reactant | water | 20 mL | O | H2O
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-((3aR,4S,6R,6aS)-6-(6-Chloro-5-nitro-2-(propylthio)pyrimidin-4-ylamino)-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yloxy)ethanol | 800 mg, yield=45% | ClC1=C(C(=NC(=N1)SCCC)N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)OCCO)[N+](=O)[O-] | C17H25ClN4O6S
